US09193741B2
Synthesis of 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N-methyl-N-p-tolylpiperazine-1-carboxamide
To a suspension of 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N-p-tolylpiperazine-1-carboxamide (90 mg, 0.2 mmol) in DMF (5 ml) was added NaH (60%, 12 mg, 0.31 mmol). The resulting mixture was stirred at room temperature for 10 minutes. Then, methyl iodide (0.3 mmol) was added to the mixture. After stirring at room temperature for 30 minutes, the solvents were evaporated in vacuo and the crude residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1/30), yielding the pure title compound as yellowish solid (40 mg, 43%).

reactant | 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N-p-tolylpiperazine-1-carboxamide | 0.2 mmol, 90 mg | NC=1N=C(C2=C(N1)SC(=N2)C=2C=NC=CC2)N2CCN(CC2)C(=O)NC2=CC=C(C=C2)C | C22H22N8OS
reactant | NaH | 0.31 mmol, 12 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 mmol | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N-methyl-N-p-tolylpiperazine-1-carboxamide | 40 mg, 43% | NC=1N=C(C2=C(N1)SC(=N2)C=2C=NC=CC2)N2CCN(CC2)C(=O)N(C2=CC=C(C=C2)C)C | C23H24N8OS
